US05095014
3-[2-Chloro-4-(trifluoromethyl)phenoxy]-N,N-dimethyl-1-azetidinecarboxamide
A stirred solution of 5 g (0.016 mol) of 3-[2-chloro-4-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride in 20 ml of tetrahydrofuran was treated with 5.5 ml (0.048 mol) of 40% aqueous dimethylamine. After stirring for 16 h, the reaction mixture was diluted with 200 ml of water and the solid which precipitated was collected by filtration (4.8 g). The crude product was crystallized from benzene/ligroin to yield 4.3 g (83.3%) of fine white crystals, mp 106°-108° C.

reactant | 3-[2-chloro-4-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride | 0.016 mol, 5 g | ClC1=C(OC2CN(C2)C(=O)Cl)C=CC(=C1)C(F)(F)F | C11H8Cl2F3NO2
reactant | dimethylamine | 0.048 mol, 5.5 ml | CNC | C2H7N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 3-[2-Chloro-4-(trifluoromethyl)phenoxy]-N,N-dimethyl-1-azetidinecarboxamide | 4.3 g, 83.3% | ClC1=C(OC2CN(C2)C(=O)N(C)C)C=CC(=C1)C(F)(F)F | C13H14ClF3N2O2
